US09193723B2
N-(imidazo[1,2-a]pyridin-6-ylmethyl)-N′-(3-methylbutyl)benzene-1,4-dicarboxamide
The title compound was prepared as described in Example 1A, substituting 3-methylbutan-1-amine for 3-methylbutan-1-amine and 4-(imidazo[1,2-a]pyridin-6-ylmethylcarbamoyl)benzoic acid for 4-nitrobenzoic acid. 1H NMR (300 MHz, DMSO-d6) δ ppm 9.15 (t, J=5.8 Hz, 1H), 8.55-8.47 (m, 2H), 8.00-7.84 (m, 5H), 7.54 (dd, J=5.1, 4.1 Hz, 2H), 7.23 (dd, J=9.3, 1.7 Hz, 1H), 4.48 (d, J=5.8 Hz, 2H), 3.30-3.21 (m, 2H), 1.62 (dp, J=13.3, 6.6 Hz, 1H), 1.49-1.37 (m, 2H), 0.91 (d, J=6.6 Hz, 6H); MS (ESI(+)) m/e 365 (M+H)+.

reactant | 3-methylbutan-1-amine | CC(CCN)C | C5H13N
reactant | 4-(imidazo[1,2-a]pyridin-6-ylmethylcarbamoyl)benzoic acid | N=1C=CN2C1C=CC(=C2)CNC(=O)C2=CC=C(C(=O)O)C=C2 | C16H13N3O3
reactant | 4-nitrobenzoic acid | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | N-(imidazo[1,2-a]pyridin-6-ylmethyl)-N′-(3-methylbutyl)benzene-1,4-dicarboxamide | N=1C=CN2C1C=CC(=C2)CNC(=O)C2=CC=C(C=C2)C(=O)NCCC(C)C | C21H24N4O2
